US07626042B2
(1) 3-Hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-2-naphthamide
Using 3-hydroxynaphthalene-2-carboxylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 3-hydroxynaphthalene-2-carboxylic acid | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | 3-Hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-2-naphthamide | Yield: 46.9% | OC=1C(=CC2=CC=CC=C2C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H11F6NO2
